US07470798B2
A mixture of 1,2,3,4-tetrahydro-1,4-methano-naphthalene-5,8-diol (1.34 g, 7.94 mmol), 1.0 mL (3.97 mmol) of BF3.Et2O and 25 mL of dioxane was heated up to 110° C. under a nitrogen atmosphere. A solution of 5-methyl-5-vinyl-dihydro-furan-2-one (1.12 mg, 8.6 mmol) in 24 ml of dioxane was added slowly to the mixture. The addition was completed after two hours and the mixture was continued to reflex for additional 3 hours. After cooling down to room temperature, the mixture was poured to water, extracted with ethyl acetate, washed with water and dried over MgSO4. After the removal of solvents, the residue was mixed with methanol/HCl and let stand overnight at room temperature. Then the solvents were removed and the residue was purified via flash column chromatography on silica gel (1:3 EtOAc/Hex) twice to give 1.30 g of 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester. 1H-NMR (300 MHz, CDCl3) δ (ppm): 6.29 (s. 1H), 4.70 (s, 1H), 3.68 (s, 3H), 3.52-3.46 (d, 2H), 2.69-2.55 (m, 2H), 2.52-2.47 (m, 2H), 2.00-1.64 (m, 8H), 1.43-1.15 (m, 5H). MS (ESI): 317 (M+H+, 70%), 339 (M+Na+, 100%).

reactant | 1,2,3,4-tetrahydro-1,4-methano-naphthalene-5,8-diol | 7.94 mmol, 1.34 g | C12CCC(C=3C(=CC=C(C13)O)O)C2 | C11H12O2
reactant | BF3.Et2O | 3.97 mmol, 1.0 mL | B(F)(F)F.CCOCC
reactant | 5-methyl-5-vinyl-dihydro-furan-2-one | 8.6 mmol, 1.12 mg | CC1(CCC(O1)=O)C=C | C7H10O2
reactant | water | O | H2O
solvent | dioxane | 24 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-methano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester | 1.30 g | COC(CCC1(OC2=C3C(=C(C=C2CC1)O)C1CCC3C1)C)=O | C19H24O4
